* c:\users\senba\desktop\fossee\esim\library\subcircuitlibrary\sn74ls47\sn74ls47.cir

.include 3_and.sub
.include 4_and.sub
* u14  net-_u11-pad3_ net-_u13-pad3_ net-_u14-pad3_ d_and
* u15  net-_u10-pad1_ net-_u12-pad3_ net-_u15-pad3_ d_and
x11 net-_u10-pad3_ net-_u11-pad1_ net-_u12-pad1_ net-_u13-pad1_ net-_u38-pad1_ 4_and
* u16  net-_u11-pad3_ net-_u13-pad3_ net-_u16-pad3_ d_and
x2 net-_u10-pad3_ net-_u11-pad1_ net-_u12-pad3_ net-_u23-pad1_ 3_and
x3 net-_u10-pad1_ net-_u11-pad3_ net-_u12-pad3_ net-_u24-pad1_ 3_and
* u17  net-_u12-pad3_ net-_u13-pad3_ net-_u17-pad3_ d_and
x4 net-_u10-pad1_ net-_u11-pad3_ net-_u12-pad1_ net-_u29-pad1_ 3_and
x5 net-_u10-pad3_ net-_u11-pad1_ net-_u12-pad1_ net-_u26-pad1_ 3_and
x6 net-_u10-pad1_ net-_u11-pad1_ net-_u12-pad3_ net-_u9-pad1_ 3_and
x7 net-_u10-pad3_ net-_u11-pad3_ net-_u12-pad3_ net-_u27-pad1_ 3_and
* u18  net-_u11-pad1_ net-_u12-pad3_ net-_u18-pad3_ d_and
* u19  net-_u10-pad3_ net-_u11-pad3_ net-_u19-pad3_ d_and
* u20  net-_u11-pad3_ net-_u12-pad1_ net-_u20-pad3_ d_and
x8 net-_u10-pad3_ net-_u12-pad1_ net-_u13-pad1_ net-_u35-pad1_ 3_and
x9 net-_u10-pad3_ net-_u11-pad3_ net-_u12-pad3_ net-_u36-pad1_ 3_and
* u10  net-_u10-pad1_ net-_u1-pad5_ net-_u10-pad3_ d_nand
* u11  net-_u11-pad1_ net-_u1-pad5_ net-_u11-pad3_ d_nand
* u12  net-_u12-pad1_ net-_u1-pad5_ net-_u12-pad3_ d_nand
* u13  net-_u13-pad1_ net-_u1-pad5_ net-_u13-pad3_ d_nand
* u2  net-_u1-pad1_ net-_u1-pad6_ net-_u10-pad1_ d_nand
* u3  net-_u1-pad2_ net-_u1-pad6_ net-_u11-pad1_ d_nand
* u4  net-_u1-pad3_ net-_u1-pad6_ net-_u12-pad1_ d_nand
* u5  net-_u1-pad4_ net-_u13-pad1_ d_inverter
x10 net-_u11-pad1_ net-_u12-pad1_ net-_u13-pad1_ net-_u1-pad6_ net-_u28-pad1_ 4_and
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ ? net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ port
* u49  net-_u1-pad7_ net-_u49-pad2_ d_inverter
* u30  net-_u14-pad3_ net-_u30-pad2_ d_inverter
* u25  net-_u15-pad3_ net-_u25-pad2_ d_inverter
* u38  net-_u38-pad1_ net-_u38-pad2_ d_inverter
* u21  net-_u17-pad3_ net-_u21-pad2_ d_inverter
* u29  net-_u29-pad1_ net-_u29-pad2_ d_inverter
* u26  net-_u26-pad1_ net-_u26-pad2_ d_inverter
* u9  net-_u9-pad1_ net-_u9-pad2_ d_inverter
* u27  net-_u27-pad1_ net-_u27-pad2_ d_inverter
* u37  net-_u10-pad3_ net-_u37-pad2_ d_inverter
* u31  net-_u18-pad3_ net-_u31-pad2_ d_inverter
* u33  net-_u19-pad3_ net-_u33-pad2_ d_inverter
* u34  net-_u20-pad3_ net-_u34-pad2_ d_inverter
* u35  net-_u35-pad1_ net-_u35-pad2_ d_inverter
* u36  net-_u36-pad1_ net-_u36-pad2_ d_inverter
* u28  net-_u28-pad1_ net-_u28-pad2_ d_inverter
x12 net-_u30-pad2_ net-_u25-pad2_ net-_u38-pad2_ net-_u1-pad8_ 3_and
x13 net-_u22-pad2_ net-_u23-pad2_ net-_u24-pad2_ ? 3_and
x14 net-_u26-pad2_ net-_u9-pad2_ net-_u27-pad2_ net-_u1-pad11_ 3_and
* u41  net-_u37-pad2_ net-_u31-pad2_ net-_u1-pad12_ d_and
x15 net-_u33-pad2_ net-_u34-pad2_ net-_u35-pad2_ net-_u1-pad13_ 3_and
* u39  net-_u36-pad2_ net-_u28-pad2_ net-_u1-pad14_ d_and
* u22  net-_u16-pad3_ net-_u22-pad2_ d_inverter
* u23  net-_u23-pad1_ net-_u23-pad2_ d_inverter
* u24  net-_u24-pad1_ net-_u24-pad2_ d_inverter
* u40  net-_u21-pad2_ net-_u29-pad2_ net-_u1-pad10_ d_and
x1 net-_u1-pad6_ net-_u49-pad2_ net-_u13-pad1_ net-_u12-pad1_ net-_u6-pad1_ 4_and
* u7  net-_u12-pad3_ net-_u10-pad1_ net-_u6-pad2_ d_and
* u6  net-_u6-pad1_ net-_u6-pad2_ net-_u1-pad5_ d_nand
a1 [net-_u11-pad3_ net-_u13-pad3_ ] net-_u14-pad3_ u14
a2 [net-_u10-pad1_ net-_u12-pad3_ ] net-_u15-pad3_ u15
a3 [net-_u11-pad3_ net-_u13-pad3_ ] net-_u16-pad3_ u16
a4 [net-_u12-pad3_ net-_u13-pad3_ ] net-_u17-pad3_ u17
a5 [net-_u11-pad1_ net-_u12-pad3_ ] net-_u18-pad3_ u18
a6 [net-_u10-pad3_ net-_u11-pad3_ ] net-_u19-pad3_ u19
a7 [net-_u11-pad3_ net-_u12-pad1_ ] net-_u20-pad3_ u20
a8 [net-_u10-pad1_ net-_u1-pad5_ ] net-_u10-pad3_ u10
a9 [net-_u11-pad1_ net-_u1-pad5_ ] net-_u11-pad3_ u11
a10 [net-_u12-pad1_ net-_u1-pad5_ ] net-_u12-pad3_ u12
a11 [net-_u13-pad1_ net-_u1-pad5_ ] net-_u13-pad3_ u13
a12 [net-_u1-pad1_ net-_u1-pad6_ ] net-_u10-pad1_ u2
a13 [net-_u1-pad2_ net-_u1-pad6_ ] net-_u11-pad1_ u3
a14 [net-_u1-pad3_ net-_u1-pad6_ ] net-_u12-pad1_ u4
a15 net-_u1-pad4_ net-_u13-pad1_ u5
a16 net-_u1-pad7_ net-_u49-pad2_ u49
a17 net-_u14-pad3_ net-_u30-pad2_ u30
a18 net-_u15-pad3_ net-_u25-pad2_ u25
a19 net-_u38-pad1_ net-_u38-pad2_ u38
a20 net-_u17-pad3_ net-_u21-pad2_ u21
a21 net-_u29-pad1_ net-_u29-pad2_ u29
a22 net-_u26-pad1_ net-_u26-pad2_ u26
a23 net-_u9-pad1_ net-_u9-pad2_ u9
a24 net-_u27-pad1_ net-_u27-pad2_ u27
a25 net-_u10-pad3_ net-_u37-pad2_ u37
a26 net-_u18-pad3_ net-_u31-pad2_ u31
a27 net-_u19-pad3_ net-_u33-pad2_ u33
a28 net-_u20-pad3_ net-_u34-pad2_ u34
a29 net-_u35-pad1_ net-_u35-pad2_ u35
a30 net-_u36-pad1_ net-_u36-pad2_ u36
a31 net-_u28-pad1_ net-_u28-pad2_ u28
a32 [net-_u37-pad2_ net-_u31-pad2_ ] net-_u1-pad12_ u41
a33 [net-_u36-pad2_ net-_u28-pad2_ ] net-_u1-pad14_ u39
a34 net-_u16-pad3_ net-_u22-pad2_ u22
a35 net-_u23-pad1_ net-_u23-pad2_ u23
a36 net-_u24-pad1_ net-_u24-pad2_ u24
a37 [net-_u21-pad2_ net-_u29-pad2_ ] net-_u1-pad10_ u40
a38 [net-_u12-pad3_ net-_u10-pad1_ ] net-_u6-pad2_ u7
a39 [net-_u6-pad1_ net-_u6-pad2_ ] net-_u1-pad5_ u6
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u14 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u15 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u16 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u17 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u18 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u19 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u20 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u10 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u11 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u12 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u13 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u2 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u3 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u4 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u5 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u49 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u30 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u25 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u38 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u21 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u29 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u26 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u9 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u27 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u37 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u31 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u33 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u34 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u35 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u36 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u28 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u41 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u39 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u22 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u23 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u24 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u40 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u7 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u6 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
