.title kicad schematic

.include ca3005.sub
c3 out1 gnd 0.1u
r2 net-_r2-pad1_ out1 1k
v2 out1 gnd  dc 9
v4 net-_r3-pad2_ gnd  dc 6
r3 out2 net-_r3-pad2_ 1k
c2 net-_c2-pad1_ gnd 0.1u
v3 net-_c2-pad1_ gnd  dc -6
r1 gnd net-_c1-pad2_ 500
v1 input gnd sine(0 2 50 0 0)
* u1 input plot_v1
c1 input net-_c1-pad2_ 1u
x2 net-_c1-pad2_ unconnected-_x2-pad2_ unconnected-_x2-pad3_ unconnected-_x2-pad4_ unconnected-_x2-pad5_ unconnected-_x2-pad6_ net-_c1-pad2_ net-_c2-pad1_ out1 net-_r2-pad1_ out2 gnd ca3005
.tran 1e-03 75e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(input)
.endc
.end
