* c:\users\vlsi\esim-workspace\fir_filter\fir_filter.cir

* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ fir_filter
* u3  x7 x6 x5 x4 x3 x2 x1 x0 net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ adc_bridge_8
* u2  clk0 rst0 net-_u1-pad1_ net-_u1-pad2_ adc_bridge_2
* u4  net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ y7 y6 y5 y4 y3 y2 y1 y0 dac_bridge_8
v9  clk0 gnd pulse(0 5 0.01n 0.01n 0.01n 70n 100n)
v10  rst0 gnd pulse(0 5 0.01n 0.01n 0.01n 40n 50n)
v1  x7 gnd pulse(0 5 0.01n 0.01n 0.01n 50n 100n)
v2  x6 gnd pulse(0 5 0.01n 0.01n 0.01n 30n 50n)
v3  x5 gnd pulse(0 5 0.01n 0.01n 0.01n 1n 2n)
v4  x4 gnd pulse(0 5 0.01n 0.01n 0.01n 1.2u 3u)
v5  x3 gnd pulse(0 5 0.01n 0.01n 0.01n 60n 70n)
v6  x2 gnd pulse(0 5 0.01n 0.01n 0.01n 20n 40n)
v7  x1 gnd pulse(0 5 0.01n 0.01n 0.01n 570n 1.2u)
v8  x0 gnd pulse(0 5 0.01n 0.01n 0.01n 2.9u 3u)
* u6  y7 plot_v1
* u7  y6 plot_v1
* u11  y5 plot_v1
* u12  y4 plot_v1
* u9  y3 plot_v1
* u10  y2 plot_v1
* u8  y1 plot_v1
* u5  y0 plot_v1
a1 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ ] [net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ ] u1
a2 [x7 x6 x5 x4 x3 x2 x1 x0 ] [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ ] u3
a3 [clk0 rst0 ] [net-_u1-pad1_ net-_u1-pad2_ ] u2
a4 [net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ ] [y7 y6 y5 y4 y3 y2 y1 y0 ] u4
* Schematic Name:                             fir_filter, NgSpice Name: fir_filter
.model u1 fir_filter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 1e-09 1.717e-06 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(y7)+6 v(y6)+12v(y5)+18 v(y4)+24  v(y3)+30 v(y2)+36 v(y1)+42 v(y0)
.endc
.end
