* c:\users\vlsi\esim-workspace\freq_mul\freq_mul.cir

* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ freq_mul
* u4  clkout rst0 net-_u2-pad1_ net-_u2-pad2_ adc_bridge_2
v1  clkout gnd pulse(0 1 0.01ns 0.001ns 0.001ns 10ns 20ns)
v2  rst0 gnd pulse(0 1 0.01ns 0.001ns 0.001ns 10ns 300ns)
* u5  net-_u2-pad3_ clkin dac_bridge_1
* u1  clkout plot_v1
* u3  rst0 plot_v1
* u6  clkin plot_v1
a1 [net-_u2-pad1_ ] [net-_u2-pad2_ ] [net-_u2-pad3_ ] u2
a2 [clkout rst0 ] [net-_u2-pad1_ net-_u2-pad2_ ] u4
a3 [net-_u2-pad3_ ] [clkin ] u5
* Schematic Name:                             freq_mul, NgSpice Name: freq_mul
.model u2 freq_mul(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=0.4 in_high=0.6 rise_delay=1e-9 fall_delay=1e-9)
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=1.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 1e-09 300e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(clkout)+6 v(rst0)+12 v(clkin)+18
plot 
plot
.endc
.end
