* c:\users\vlsi\esim-workspace\sync_fif0\sync_fif0.cir

* u12  net-_u12-pad1_ net-_u12-pad2_ net-_u12-pad3_ net-_u12-pad4_ net-_u12-pad5_ net-_u12-pad6_ net-_u12-pad7_ net-_u12-pad8_ net-_u12-pad9_ net-_u12-pad10_ net-_u12-pad11_ net-_u12-pad12_ net-_u12-pad13_ net-_u12-pad14_ net-_u12-pad15_ net-_u12-pad16_ net-_u12-pad17_ net-_u12-pad18_ net-_u12-pad19_ net-_u12-pad20_ net-_u12-pad21_ net-_u12-pad22_ sync_fifo
* u15  d7 d6 d5 d4 d3 d2 d1 d0 net-_u12-pad5_ net-_u12-pad6_ net-_u12-pad7_ net-_u12-pad8_ net-_u12-pad9_ net-_u12-pad10_ net-_u12-pad11_ net-_u12-pad12_ adc_bridge_8
* u14  clk0 rst0 wr_en0 rd_en0 net-_u12-pad1_ net-_u12-pad2_ net-_u12-pad3_ net-_u12-pad4_ adc_bridge_4
* u16  net-_u12-pad13_ net-_u12-pad14_ net-_u12-pad15_ net-_u12-pad16_ net-_u12-pad17_ net-_u12-pad18_ net-_u12-pad19_ net-_u12-pad20_ q7 q6 q5 q4 q3 q2 q1 q0 dac_bridge_8
* u17  net-_u12-pad21_ net-_u12-pad22_ full0 empty0 dac_bridge_2
v1  clk0 gnd pulse(0 1 0.01ns 0.001ns 0.001ns 10ns 20ns)
v2  rst0 gnd pulse(0 1 40n 1n 1n 1000n 2000n)
v3  wr_en0 gnd pulse(0 1 60n 1n 1n 120n 240n)
v4  rd_en0 gnd pulse(0 1 200n 1n 1n 120n 240n)
v12  d0 gnd pulse(0 1 60n 1n 1n 20n 40n)
v11 d1 gnd pulse(0 1 80n 1n 1n 40n 80n)
v10 d2 gnd pulse(0 1 120n 1n 1n 80n 160n)
v9  d3 gnd pulse(0 0 0 0 0 0 0)
v8  d4 gnd pulse(0 0 0 0 0 0 0)
v7  d5 gnd pulse(0 0 0 0 0 0 0)
v6  d6 gnd pulse(0 0 0 0 0 0 0)
v5  d7 gnd pulse(0 0 0 0 0 0 0)


* u2  clk0 plot_v1
* u4  rst0 plot_v1
* u6  wr_en0 plot_v1
* u8  rd_en0 plot_v1
* u3  d6 plot_v1
* u5  d5 plot_v1
* u7  d4 plot_v1
* u9  d3 plot_v1
* u10  d2 plot_v1
* u11  d1 plot_v1
* u13  d0 plot_v1
* u1  d7 plot_v1
* u18  q7 plot_v1
* u19  q6 plot_v1
* u20  q5 plot_v1
* u21  q4 plot_v1
* u22  q3 plot_v1
* u23  q2 plot_v1
* u24  q1 plot_v1
* u25  q0 plot_v1
* u26  full0 plot_v1
* u27  empty0 plot_v1
a1 [net-_u12-pad1_ ] [net-_u12-pad2_ ] [net-_u12-pad3_ ] [net-_u12-pad4_ ] [net-_u12-pad5_ net-_u12-pad6_ net-_u12-pad7_ net-_u12-pad8_ net-_u12-pad9_ net-_u12-pad10_ net-_u12-pad11_ net-_u12-pad12_ ] [net-_u12-pad13_ net-_u12-pad14_ net-_u12-pad15_ net-_u12-pad16_ net-_u12-pad17_ net-_u12-pad18_ net-_u12-pad19_ net-_u12-pad20_ ] [net-_u12-pad21_ ] [net-_u12-pad22_ ] u12
a2 [d7 d6 d5 d4 d3 d2 d1 d0 ] [net-_u12-pad5_ net-_u12-pad6_ net-_u12-pad7_ net-_u12-pad8_ net-_u12-pad9_ net-_u12-pad10_ net-_u12-pad11_ net-_u12-pad12_ ] u15
a3 [clk0 rst0 wr_en0 rd_en0 ] [net-_u12-pad1_ net-_u12-pad2_ net-_u12-pad3_ net-_u12-pad4_ ] u14
a4 [net-_u12-pad13_ net-_u12-pad14_ net-_u12-pad15_ net-_u12-pad16_ net-_u12-pad17_ net-_u12-pad18_ net-_u12-pad19_ net-_u12-pad20_ ] [q7 q6 q5 q4 q3 q2 q1 q0 ] u16
a5 [net-_u12-pad21_ net-_u12-pad22_ ] [full0 empty0 ] u17
* Schematic Name:                             sync_fifo, NgSpice Name: sync_fifo
.model u12 sync_fifo(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u15 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_4, NgSpice Name: adc_bridge
.model u14 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u16 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u17 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 1e-09 450e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(q0)+6  v(q1)+12  v(q2)+18  v(q3)+24  v(q4)+30  v(q5)+36  v(q6)+42  v(q7)+48 v(full0)+54  v(empty0)+60 v(d0)+66  v(d1)+72  v(d2)+78  v(d3)+84  v(d4)+90  v(d5)+96  v(d6)+102  v(d7)+108 v(wr_en0)+114  v(rd_en0)+120  v(rst0)+126  v(clk0)+132  
.endc
.end
