.title kicad schematic

.include sd_modulator_sub.sub
v3 net-_u1-pad10_ gnd 5v
vv1 net-_u1-pad1_ gnd pulse(0 5 0 1n 1n 49n 100n)
vv2 net-_u1-pad2_ gnd pulse(0 5 150n 1n 1n 2m 3m)
r1 sd_out filtered_sd_out 1k
xu1 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad10_ net-_u1-pad10_ net-_u1-pad10_ net-_u1-pad10_ net-_u1-pad10_ net-_u1-pad10_ net-_u1-pad10_ net-_u1-pad10_ sd_out sd_modulator_sub
* u2 sd_out plot_v1
c1 filtered_sd_out gnd 100nf
* u3 filtered_sd_out plot_v1
.tran 1e-09 1e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(sd_out)
plot v(filtered_sd_out)
.endc
.end
